US05990142
1C 2-Chromanemethanol
A solution of ethyl 2-chromanecarboxylate (1.575 g, 7.68 mmol) in a mixture of tetrahydrofuran (75 ml) and water (2 ml) was added with sodium borohydride (0.686 g, 18.2 mmol) in small portions and the mixture was left under stirring at room temperature for 48 h. Afterwards the mixture was cooled at -10° C. and added with acetone (47 ml) stirring at room temperature for 0.5 h. Subsequently water (100 ml) was added and the mixture was extracted with dichloromethane. The combined organic phases were dried and the solvent was removed by evaporation under reduced pressure, thereby obtaining 1.218 g of the title product (97% yield).

reactant | ethyl 2-chromanecarboxylate | 7.68 mmol, 1.575 g | O1C(CCC2=CC=CC=C12)C(=O)OCC | C12H14O3
reactant | sodium borohydride | 18.2 mmol, 0.686 g | [BH4-].[Na+]
reactant | acetone | 47 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-Chromanemethanol | 1.218 g, 97% yield | O1C(CCC2=CC=CC=C12)CO | C10H12O2
